Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
short cervix
 
Major Surgical or Invasive Procedure:
Betamethasone for fetal lung maturity

 
History of Present Illness:
___ G3P ___ with short cx referred from ATU for progressively
shortening cx.  On TV today, cx measures 4.4mm w/funelling. 
Prior eval on ___ was sig for CL 11mm.  Pt denies ctx.  +FM, no
VB, no LOF.

 
Past Medical History:
PMH: None

All: NKDA

PSH: None

Gyn: ASCUS w/HR HPV ___ for Pap/colpo PP.

OB: 
TAB x 1
SAB x 1
CS for fetal distress

PNC: A+/RPR NR/Rub ___ neg/GLT nl/
  FFS sig for echogenic cardiac focus and bilat choroid plexus
cyst, pt declined quad and amnio

 
Social History:
The pt emigrated from ___ in the setting of civil war
and has successfully sought asylum here.  She was accompanied by
her husband. The remainder of her family remains in ___.  Her
daughter was born here.  She is a ___ students. 
She depends on her husband's income who works at ___.
She denies ___.
 
Physical Exam:
76  107/67  18
NAD
Clear 
RRR
Gravid, NT
SVE Deferred

FHT 140, mod variability, no decel AGA
Toco: no ctx

BPP: ___, AFI 13.7, vtx

 
Pertinent Results:
___ 01:49PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 01:49PM URINE  COLOR-Yellow APPEAR-Hazy SP ___

Negative Urine Culture
 
Brief Hospital Course:
The patient was admitted for shortened cervix, which had been 
followed by ___ since her full fetal survey.  She was started on 
48h course of betamethazone, which she completed on day of 
discharge (HD#3).  Fetal well being was evaluated by BPP and 
daily NSTs, which were all reassuring.  Of note, the patient has 
b/l choroid plexus cyst & echogenic intercardiac focus, for 
which she has also seen MFM, and declined quad or an amnio.  

She was advised to stay hospitalized until 32wks GA, however, pt 
declined.  Pt was offered to stay for at least a week by Dr. 
___ pt declined.  Pt reports difficult child care 
issues.  Pt was thus advised by Dr. ___ to maintain complete 
bedrest and to have another cervical length check in one week 
(scheduled ___.  

Pt was seen by social work while inhouse, given her social 
history as well as her life stressors at present, including 
child care issues.   

Pt was discharged on HD#3, stable, per Dr. ___.  
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
2. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Short cervix

 
Discharge Condition:
Stable, without contractions but with shortened cervix!!

 
Discharge Instructions:
PLEASE MAINTAIN BEDREST!!  Please call your doctor if you have 
contractions, leak of fluid, vaginal bleeding or if you don't 
feel your baby move.  
 
Followup Instructions:
___